US08198448B2
To a solution of 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)thiophene-2-carbonyl chloride (0.150 g, 0.33 mmol) and Hunig's Base (0.17 ml, 1.00 mmol) in DCM (2.5 mL) was added methanamine (0.17 ml, 0.33 mmol) in THF dropwise. The solution was stirred at room temperature for 3 hours, at which point an additional 1.5 equivalents of amine were added. The solution was concentrated in vacuo and purified via flash chromatography eluting with 3-8% MeOH:NH4OH in DCM. There remained an impurity, so the product was triturated with MeCN, filtered and washed with DCM to yield 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-N-methylthiophene-2-carboxamide (0.0276 g, 19% yield) as an amorphous tan solid.

reactant | 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)thiophene-2-carbonyl chloride | 0.33 mmol, 0.150 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CC=C(S2)C(=O)Cl | C22H15ClN4O3S
reactant | Hunig's Base | 1.00 mmol, 0.17 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanamine | 0.33 mmol, 0.17 ml | CN | CH5N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-N-methylthiophene-2-carboxamide | 0.0276 g, 19% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CC=C(S2)C(=O)NC | C23H19N5O3S
